* CDZV4_3B D model
* PKG: VMN2M,Vz=4.3V at Iz=5mA,Pd=100mW
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2015/09/02
*****************A C
.SUBCKT CDZV4_3B 1 2
.PARAM T0=25
.FUNC I1(V) {IF(V<0,-5.283E-09*((-V*(1+4.420E-04*(TEMP-T0)+6.317E-15*(TEMP-T0)**2))**7.552E+00+
+           (-V*(1+5.020E-04*(TEMP-T0)+6.317E-15*(TEMP-T0)**2))**9.057E+00),0)}
R1 1 2 1E15
E1 3 0 VALUE={V(1,2)}
V1 3 4 0
D1 4 0 D1
V2 3 5 0
D2 5 0 D2
G1 1 2 VALUE={I1(V(3))+I(V1)-I(V2)*IF(V(3)<0,1,0)}
.MODEL D1 D
+ IS=3.0456E-16
+ N=1.0125
+ RS=.22346
+ IKF=1.1150
+ CJO=5.4200E-11
+ M=.24343
+ VJ=.50139
+ ISR=7.2319E-12
+ NR=4.9000
+ BV=4.6500
+ TT=3.3000E-8
+ NBVL=6.0000
+ IBVL=0.0200
.MODEL D2 D
+ IS=3.0456E-16
+ N=1.0125
+ RS=.22346
+ IKF=1.1158
+ M=.24343
+ VJ=.50139
.ENDS CDZV4_3B








































